US07534797B2
Trifluoromethanesulfonic acid 2-phenylquinolin-7-yl ester
To a suspension of 2-phenylquinolin-7-ol (295.7 mg, 1.336 mmol) in dry pyridine (285 μL, 279 mg, 3.5 mmol) and dry CH2Cl2 (12 mL), cooled by ice/water, was added triflic anhydride (295 μL, 495 mg, 1.75 mmol) dropwise over 10 min. All material dissolved slowly; the solution, which became dark red, slowly warmed up to ambient temperature. After 3 h, TLC (eluent CH2Cl2) indicated complete conversion of the starting material. Water (15 mL) was added, the layers were separated, the aqueous layer was extracted with CH2Cl2 (3×15 mL), and the combined CH2Cl2 layers were washed with water (2×) and brine and dried over MgSO4. Filtration and concentration gave a red oil that slowly solidified on standing. The material thus obtained was used without further purification in the next step; 1H NMR (CDCl3, 400 MHz) δ 7.46 (dd, J=2.4, 8.8 Hz, 1H), 7.48-7.59 (m, 3H), 7.93 (d, J=8.4 Hz, 1H), 7.98 (d, J=8.4 Hz, 1H), 8.10 (d, J=2.4 Hz, 1H), 8.16-8.20 (m, 2H), 8.28 (d, J=8.8 Hz, 1H); MS (ES+): m/z 354.0 (100) [MH+]; HPLC: tR=4.2 min (OpenLynx, polar—5 min).

reactant | 2-phenylquinolin-7-ol | 1.336 mmol, 295.7 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)O | C15H11NO
reactant | pyridine | 3.5 mmol, 285 μL, 279 mg | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 1.75 mmol, 295 μL, 495 mg | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | Water | 15 mL | O | H2O
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 2-phenylquinolin-7-yl ester | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)OS(=O)(=O)C(F)(F)F | C16H10F3NO3S
